US04127580
850 g (3 moles) 2-(2-thienyl)-ethyl paratoluene sulfonate and 850 g (6 moles) ortho-chlorobenzylamine are dissolved in 5.2 liters acetonitrile and the mixture is refluxed during 6.5 hours. After filtration, 630 g ortho-chlorobenzylamine paratoluene sulfonate are removed by filtration. The filtrate is concentrated and the residue is taken up into diisopropyl ether and 500 ml 2N sodium hydroxide. The organic phase is separated and is made acidic with 3N hydrochloric acid. The resulting hydrochloride precipitates out; it is collected by filtration, suction filtered and washed with acetone, to give 684 g (Yield: 78%) N-(2-chloro-benzyl)-2-(2-thienyl)-ethylamine hydrochloride.

reactant | 2-(2-thienyl)-ethyl paratoluene sulfonate | 3 moles, 850 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC=1SC=CC1)C | C13H14O3S2
reactant | ortho-chlorobenzylamine | 6 moles, 850 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
solvent | acetonitrile | 5.2 liters | C(C)#N | C2H3N
product | N-(2-chloro-benzyl)-2-(2-thienyl)-ethylamine hydrochloride | 684 g, Yield: 78% | Cl.ClC1=C(CNCCC=2SC=CC2)C=CC=C1 | InChI=1S/C13H14ClNS.ClH/c14-13-6-2-1-4-11(13)10-15-8-7-12-5-3-9-16-12;/h1-6,9,15H,7-8,10H2;1H
